US04175206
36.9 g of sodium glyoxylate, 61.3 g of ammonium formate, 60 g of phenol and 130 g of water are treated in the same manner as described in Example 1. 18.5 g of DL-p-hydroxyphenylglycine are thereby obtained as crystals. Yield: 34.2% M.p. 225°-228° C. (decomp.).

reactant | sodium glyoxylate | 36.9 g | C(C=O)(=O)[O-].[Na+]
reactant | ammonium formate | 61.3 g | C(=O)[O-].[NH4+]
reactant | phenol | 60 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | 130 g | O | H2O
product | DL-p-hydroxyphenylglycine | 18.5 g, Yield: 34.2% | C1=CC(=CC=C1C(C(=O)O)N)O | C8H9NO3
